### PR TITLE
[Merged by Bors] - feat: port Data.IsROrC.Basic

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #leanprover-community/mathlib#18919

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
@semorrison Note that it's not `help-wanted` now.

File: Mathlib/Data/IsROrC/Basic.lean [hunk 1]
```diff
@@ -56,85 +56,80 @@ open ComplexConjugate
...
-/-- Simp attribute for lemmas about `is_R_or_C` -/ register_simp_attr is_R_or_C_simps
-
 variable {K E : Type _} [IsROrC K]
 
 namespace IsROrC
 
 open ComplexConjugate
 
+/-- Coercion from `ℝ` to an `IsROrC` field. -/
+@[coe] def ofReal : ℝ → K := algebraMap ℝ K
```
Comment (eric-wieser) [inline Mathlib/Data/IsROrC/Basic.lean:89]: What's the benefit of having this vs using `algebraMap` directly as the coercion?

File: Mathlib/Data/IsROrC/Basic.lean [hunk 2]
```diff
@@ -143,236 +138,208 @@ theorem inv_def (z : K) : z⁻¹ = conj z * ((‖z‖ ^ 2)⁻¹ : ℝ) :=
...
-theorem smul_re : ∀ (r : ℝ) (z : K), re (r • z) = r * re z := fun r z => by
-  rw [Algebra.smul_def]
-  apply of_real_mul_re
+theorem ofReal_inj {z w : ℝ} : (z : K) = (w : K) ↔ z = w := by simp [ext_iff]
+#align is_R_or_C.of_real_inj IsROrC.ofReal_inj
+
+#noalign is_R_or_C.bit0_re
+#noalign is_R_or_C.bit1_re
+#noalign is_R_or_C.bit0_im
+#noalign is_R_or_C.bit1_im
```
Comment (eric-wieser) [inline Mathlib/Data/IsROrC/Basic.lean:178]: I thought we were keeping these when portnig but marking them as deprecated

Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean:178]: What's the point of keeping them? They aren't useful for dealing with literal numerals anymore.

File: Mathlib/Data/IsROrC/Basic.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean:89]: I see two reasons:

- without this definition, `simp` will apply lemmas about `algebraMap`; this can change the `simp` behavior to Lean 3;
- I'm not sure that Lean 4 can pretty-print `algebraMap` as an up arrow.

File: Mathlib/Data/IsROrC/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/IsROrC/Basic.lean:178]: Elsewhere in the port we've been keeping them, so it's probably better to be consistent and clear them all up at once.

File: Mathlib/Data/IsROrC/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/IsROrC/Basic.lean:89]: > * without this definition, `simp` will apply lemmas about `algebraMap`; this can change the `simp` behavior to Lean 3;

This is a bit complicated, because in Lean 3 `algebraMap` was also a coercion, and because both had the same `coe` head symbol lemmas about one actually did apply to the other.

Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean:89]: `algebraMap` is a bundled ring homomorphism, so it comes with `map_add`, `map_sum` etc. In Lean 3, it generated a `has_coe` (`has_coe_t`?) instance, so it was possible to use it as a coercion (and this coercion doesn't match with `map_add`/`map_sum`/...).

Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean:89]: Possibly, I should reuse `Algebra.cast` instead of a new definition.

Comment (eric-wieser) [reply Mathlib/Data/IsROrC/Basic.lean:89]: How well does something like `abbrev ofReal := Algebra.cast` work?

File: Mathlib/Data/IsROrC/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/IsROrC/Basic.lean:178]: The porting wiki confirms that we should keep them.

**Comment by urkud** [comment]
Waiting for `mathport` to rebase on top of a new autoported file.

File: Mathlib/Data/IsROrC/Attr.lean [hunk 3]
```diff
@@ -0,0 +1,17 @@
...
+
+/-!
+# Declare a `isROrC_simps` simp attribute.
+
+Has to be in a separate file from `Data.IsROrC.Basic`, since simp attributes cannot be used directly
+in the file that declares them.
+-/
+
+/-- "Simp attribute for lemmas about `IsROrC`" -/
+register_simp_attr isROrC_simps
```
Comment (eric-wieser) [inline Mathlib/Data/IsROrC/Attr.lean:17]: Can we deliberately mis-name this as `is_R_or_C_simps` to make the diff easier to read? We can then rename it in a subsequent PR.

Comment (eric-wieser) [reply Mathlib/Data/IsROrC/Attr.lean:17]: Oh nevermind, that's not the problem

File: Mathlib/Data/IsROrC/Basic.lean [hunk 4]
```diff
@@ -143,236 +138,208 @@ theorem inv_def (z : K) : z⁻¹ = conj z * ((‖z‖ ^ 2)⁻¹ : ℝ) :=
...
-
-@[simp, norm_cast, is_R_or_C_simps]
-theorem of_real_neg (r : ℝ) : ((-r : ℝ) : K) = -r :=
-  ext_iff.2 <| by simp
-#align is_R_or_C.of_real_neg IsROrC.of_real_neg
-
-@[simp, norm_cast, is_R_or_C_simps]
-theorem of_real_mul (r s : ℝ) : ((r * s : ℝ) : K) = r * s :=
-  ext_iff.2 <| by simp [is_R_or_C_simps]
-#align is_R_or_C.of_real_mul IsROrC.of_real_mul
```
Comment (eric-wieser) [inline Mathlib/Data/IsROrC/Basic.lean]: Are we still waiting for one more round of mathport output here?

Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean]: Last time I checked (<1h ago), `mathport` still had `is_R_or_C.abs`.

Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean]: @eric-wieser In fact, still waiting for leanprover-community/mathlib#18919

File: Mathlib/Data/IsROrC/Basic.lean [hunk 5]
```diff
@@ -56,379 +56,365 @@ open ComplexConjugate
...
-  rfl
-#align is_R_or_C.algebra_map_eq_of_real IsROrC.algebraMap_eq_of_real
+theorem algebraMap_eq_ofReal : ⇑(algebraMap ℝ K) = ofReal := rfl
+#align is_R_or_C.algebra_map_eq_of_real IsROrC.algebraMap_eq_ofReal
 
-@[simp, is_R_or_C_simps]
-theorem re_add_im (z : K) : (re z : K) + im z * i = z :=
-  IsROrC.re_add_im_ax z
+@[simp, isROrC_simps]
+theorem re_add_im (z : K) : (re z : K) + im z * I = z := IsROrC.re_add_im_ax z
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/IsROrC/Basic.lean]: Moving the proofs to the previous line relative to the mathport output makes this PR harder to review and makes it harder to forward-fort any changes that may still happen in mathlib3 in the next few months. Is there a compelling reason for it?

Comment (urkud) [reply Mathlib/Data/IsROrC/Basic.lean]: Done. Any ideas why linter fails in seemingly unrelated files?

File: Mathlib/Data/IsROrC/Basic.lean [hunk 6]
```diff
@@ -435,9 +435,9 @@ theorem conj_eq_iff_im {z : K} : conj z = z ↔ im z = 0 :=
   (is_real_TFAE z).out 0 3
 #align is_R_or_C.conj_eq_iff_im IsROrC.conj_eq_iff_im
 
-set_option synthInstance.etaExperiment true in
-@[simp]
-theorem star_def : (Star.star : K → K) = conj :=
+-- porting note: @[simp] requires etaExperiment, but the simpNF linter times out regardless
+-- @[simp]
```
Comment (collares) [inline Mathlib/Data/IsROrC/Basic.lean:439]: https://github.com/leanprover-community/mathlib/blob/46b633fd842bef9469441c0209906f6dddd2b4f5/src/analysis/inner_product_space/pi_L2.lean#L560 is the only place in mathlib3 that breaks after removing the simp attribute, I think.

File: Mathlib/Data/IsROrC/Basic.lean [hunk 7]
```diff
@@ -436,7 +436,8 @@ theorem conj_eq_iff_im {z : K} : conj z = z ↔ im z = 0 :=
 #align is_R_or_C.conj_eq_iff_im IsROrC.conj_eq_iff_im
 
 set_option synthInstance.etaExperiment true in
-@[simp]
+-- porting note: @[simp] requires etaExperiment, but the simpNF linter times out regardless
+-- @[simp]
```
Comment (collares) [inline Mathlib/Data/IsROrC/Basic.lean:440]: https://github.com/leanprover-community/mathlib/blob/46b633fd842bef9469441c0209906f6dddd2b4f5/src/analysis/inner_product_space/pi_L2.lean#L560 is the only place in mathlib3 that breaks after commenting out the simp attribute, I think.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
